* C:\projects\circuits\bridge_rectifier\bridge_rectifier.asc
V1 Vin 0 SINE(0 {Vin} {F}) Rser=0.1
R1 Vout 0 100k
L1 Vin 0 21
L2 N001 Vtrans 1
D1 0 Vtrans 1N4148
D2 Vtrans Vout 1N4148
D3 0 N001 1N4148
D4 N001 Vout 1N4148
C1 Vout 0 100µ
.model D D
.lib C:\Users\stefa\AppData\Local\LTspice\lib\cmp\standard.dio
.param Vin=230V
.param F=50
* Bridge Rectifier
K L1 L2 1
.tran 500m
.backanno
.end
